US09193720B2
A mixture of (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-ethoxyphenyl)-2,6-dimethylpyridin-3-yl)acetate (0.013 g, 0.026 mmol) and LiOH (6.27 mg, 0.262 mmol) in 9:1 EtOH/H2O (1 ml) was refluxed for 3 h. Then, cooled and purified by prep-HPLC to afford (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-ethoxyphenyl)-2,6-dimethylpyridin-3-yl)acetic acid (0.0105 g, 0.022 mmol, 86% yield) as solid. 1H NMR (500 MHz, CDCl3) δ 7.12-7.17 (m, 1H), 7.03-7.07 (m, 1H), 6.95-7.01 (m, 2H), 5.90 (br. s., 1H), 4.06-4.17 (m, 2H), 3.46-3.88 (m, 1H), 2.75-3.08 (m, 1H), 2.70 (s, 3H), 2.25 (s, 3H), 1.91-2.43 (m, 2H), 1.48 (t, J=7.0 Hz, 3H), 1.13-1.37 (m, 4H), 1.25 (s, 9H), 0.78 (br.s., 6H). LCMS (M+H)=469.3.

reactant | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-ethoxyphenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.026 mmol, 0.013 g | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCC)C)C | C30H44N2O4
reactant | LiOH | 0.262 mmol, 6.27 mg | [Li+].[OH-]
solvent | EtOH H2O | 1 ml | CCO.O
product | (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-ethoxyphenyl)-2,6-dimethylpyridin-3-yl)acetic acid | 0.022 mmol, 0.0105 g, 86% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCC)C)C | C28H40N2O4
